US05538988
A solution of 3-(3,4-dimethoxybenzyl)-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione (900 mg, 2.37 mol), prepared as in Example 15, in methylene chloride was cooled to 0° C. under nitrogen and then boron tribromide (1M, 7.1 mL, 7.1 mmol) in an additional 10 mL of methylene chloride was added dropwise. The mixture was allowed to cool to room temperature, stirred for 16 hours and then slowly added to water. The organic layer was separated, washed with brine, dried (Na2SO4) and concentrated. The residue was purified by flash chromatography on silica gel eluting with methylene chloride/methanol (96:4) and then crystallized from methanol/ethanol/hexane to give 3-(3,4-dihydroxybenzyl)-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione (520 mg), m.p. 173°-174° C.

reactant | 3-(3,4-dimethoxybenzyl)-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | 2.37 mol, 900 mg | COC=1C=C(CN2C(N(C=C2)C2CC3=CC=CC=C3CC2)=S)C=CC1OC | C22H24N2O2S
reactant | boron tribromide | 7.1 mmol, 1M, 7.1 mL | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(3,4-dihydroxybenzyl)-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | 520 mg | OC=1C=C(CN2C(N(C=C2)C2CC3=CC=CC=C3CC2)=S)C=CC1O | C20H20N2O2S
